US08440689B2
A. tert-Butyl (1S,2R)-2-(4-(1-ethyl-1H-pyrazol-4-yl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
A solution of tert-Butyl (1S,2R)-2-(4-(1-ethyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (69.7 mg, 0.158 mmol) in DCM (5 mL) was cooled to 0° C. SELECTFLUOR® (84 mg, 0.237 mmol) was added. The mixture was left stirring in an ice bath and was allowed to warm slowly to RT with stirring overnight. Additional SELECTFLUOR® (2 eq) was added and the reaction was stopped after 2 h. After removal of solvent, the residue was diluted with EtOAc (10 mL) and washed with saturated aq NaHCO3 (5 mL), water (5 mL), and brine (5 mL). The organic layers were combined, dried over Na2SO4, and concentrated to a brown residue. The resulting crude material was reconstituted in MeOH/DCM (6 mL) and was purified via preparative HPLC. The fractions were collected and ACN was removed via rotary evaporation. The resulting aq solution was neutralized with saturated aq NaHCO3, washed with EtOAc (2×200 mL), dried over Na2SO4, and filtered. The organic phase was stripped to dryness via rotary evaporation to yield the title compound (20 mg, 28%). [M+H] calc'd for C23H31FN6O3, 459. found, 459.

reactant | tert-Butyl (1S,2R)-2-(4-(1-ethyl-1H-pyrazol-4-yl)-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.158 mmol, 69.7 mg | C(C)N1N=CC(=C1)C1=NC(=CC2=C1C(NC2)=O)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C23H32N6O3
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1S,2R)-2-(4-(1-ethyl-1H-pyrazol-4-yl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 20 mg, 28% | C(C)N1N=CC(=C1)C1=NC(=C(C2=C1C(NC2)=O)F)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C23H31FN6O3
